US04670604
3.0 g of boron tribromide are added dropwise to a solution, cooled to -78° C., of 2.2 g of methyl N-{{3-{3-[4-acetyl-3-methoxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-phenyl}}-oxamate in 20 ml of methylene chloride in the course of 5 minutes. The mixture is then stirred at room temperature for 6 hours. 5 ml of water are added, with cooling, and the organic phase is separated off and evaporated under reduced pressure. Recrystallisation from methylene chloride/ether gives methyl N-{{3-{3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-phenyl}}-oxamate.

reactant | boron tribromide | 3.0 g | B(Br)(Br)Br | BBr3
reactant | methyl N-{{3-{3-[4-acetyl-3-methoxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-phenyl}}-oxamate | 2.2 g | C(C)(=O)C1=C(C(=C(OCCCOC=2C=C(C=CC2)NC(C(=O)OC)=O)C=C1)CCC(F)(F)F)OC | C24H26F3NO7
reactant | water | 5 ml | O | H2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | methyl N-{{3-{3-[4-acetyl-3-hydroxy-2-(3,3,3-trifluoropropyl)-phenoxy]-propoxy}-phenyl}}-oxamate | C(C)(=O)C1=C(C(=C(OCCCOC=2C=C(C=CC2)NC(C(=O)OC)=O)C=C1)CCC(F)(F)F)O | C23H24F3NO7
